US05652257
Step B: preparation of (S)-N-(4-nitrobenzyl)pyroglutamic acid
(S)-N-(4-Nitrobenzyl)pyroglutamic acid methyl ester (0.365 g, 1.31 mmol) was dissolved in 10 ml MeOH, cooled to 0° C., and 1N NaOH (5.2 ml, 5.2 mmol) was added. The reaction was stirred at room temperature for 1 h. Water (50 ml) was added and the aqueous was washed with 2×50 ml EtOAc. The aqueous was acidified with 1N HCl and extracted with 3×40 ml EtOAc. The organic layers were dried (MgSO4), filtered, and concentrated to give the title compound as a solid.

reactant | (S)-N-(4-Nitrobenzyl)pyroglutamic acid methyl ester | 1.31 mmol, 0.365 g | COC([C@H]1N(C(CC1)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H14N2O5
reactant | NaOH | 5.2 mmol, 1N, 5.2 ml | [OH-].[Na+]
reactant | Water | 50 ml | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
product | (S)-N-(4-nitrobenzyl)pyroglutamic acid | [N+](=O)([O-])C1=CC=C(CN2[C@@H](CCC2=O)C(=O)O)C=C1 | C12H12N2O5
